US08748437B2
Filtration Speed of Amorphous 2-(3,4-dichlorobenzyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic Acid
A mixture of 2-(3,4-dichlorobenzyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid mono sodium salt (2.501 g), 1 mol/L aqueous sodium hydroxide solution (9.6 mL) and water (39.4 mL) was dissolved by stirring. The reaction mixture was ice-cooled, ethanol (10 mL) was added, the inside temperature was set to about 2° C., neutralized with 1 mol/L hydrochloric acid (16.0 mL), water (25.0 mL) was added (solvent amount was set to 100 mL), and the mixture was stirred under ice-cooling to confirm that the inside temperature was about 1° C. The suspension was poured into a G2 glass filter (diameter 3 cm), and the pressure reduction was started at 50 hpa. The time necessary to the increase of pressure by the completion of filtration was 42 minutes 52 seconds. The height of the solid at that time was 4.3 cm (bulk 30.4 cm3). Washing with water was not possible due to clogging.

reactant | 2-(3,4-dichlorobenzyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid mono sodium salt | 2.501 g | [Na+].ClC=1C=C(CC=2NC(C3=C(N2)SC(=C3C)C(=O)[O-])=O)C=CC1Cl
reactant | sodium hydroxide | 1 mol/L, 9.6 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 mol/L, 16.0 mL | Cl | ClH
solvent | water | 25.0 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 39.4 mL | O | H2O
product | 2-(3,4-dichlorobenzyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic Acid | ClC=1C=C(CC=2NC(C3=C(N2)SC(=C3C)C(=O)O)=O)C=CC1Cl | C15H10Cl2N2O3S
